US04954507
2-FLUOROMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE
To a solution of 0.6 g (3.7 mmol) of diethylamino-sulfur trifluoride in 5 ml dichloromethane cooled at -78° C. under nitrogen was added dropwise a solution of 1 g (3.4 mmol) of 2-hydroxymethyl-1,4-di-phenylmethyl piperazine in 5 ml dichloromethane. The temperature of the solution was allowed to warm to -50° C. in 30 mn then to C. in 1 hr 30 min. The solution was stirred two more hours at room temperature and cooled back to +5° C. A few drops of aqueous saturated solution of sodium bicarbonate were added until basic pH. The organic layer was washed twice with water, dried over magnesium sulfate, the solvent removed to give 1.10 g of an oil which was purified by chromatography using dichloromethane/ethyl acetate (95:5) to afford 0.46 g (42%) of title compound.

reactant | diethylamino-sulfur trifluoride | 3.7 mmol, 0.6 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-hydroxymethyl-1,4-di-phenylmethyl piperazine | 3.4 mmol, 1 g | OCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H24N2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-FLUOROMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE | 1.10 g | FCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23FN2
